US07423044B2
2-(4-Chloro-phenyl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ol
The title compound was prepared from 2-oxo-cyclopentanecarboxylic acid ethyl ester and 4-chloro-benzamidine hydrochloride according to general procedure 1. 1H NMR (DMSO-d6, 400 MHz) δ 2.01 (tt, J=7.1, 7.1 Hz, 2H), 2.69 (t, J=7.1 Hz, 2H), 2.83 (t, J=7.1 Hz, 2H), 7.59 (d, J=8.5 Hz, 2H), 8.10 (d, J=8.5 Hz, 2H), 12.60 (br s, 1H); MS: m/z (ESI) 245 (M−H).

reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | 4-chloro-benzamidine hydrochloride | Cl.ClC1=CC=C(C(=N)N)C=C1
product | 2-(4-Chloro-phenyl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ol | ClC1=CC=C(C=C1)C1=NC2=C(C(=N1)O)CCC2 | C13H11ClN2O
